US04745191
1-[1-(3-methoxyphenyl)-3-[4-[(3-methoxyphenyl)methyl]-1-piperazinyl]-1-propenyl]cyclohexanol
3-Methoxybenzyl chloride (1.28 g, 7.5 mol) and Cs2CO3 (5.9 g, 18 mmole) were added to a solution of 1-[1-(3-methoxyphenyl)-3-(1-piperazinyl)-1-propenyl]cyclohexanol (2.0 g, 6 mmole) in DMF (50 mL) and the mixture stirred at room temperature for one hour. Triethylamine (0.25 mL) was then added and the reaction mixture stirred overnight. The solvent was evaporated and the residue dissolved in chloroform. The solution was washed with water and the water back-extracted with chloroform. The combined organic solution was washed with brine, dried over magnesium sulfate and evaporated. The product was purified using column chromatography with chloroform as eluent and the purified title compound was converted to the hydrochloride. Yield 530 mg, m.p. 169°-171° C.

reactant | 3-Methoxybenzyl chloride | 7.5 mol, 1.28 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | Cs2CO3 | 18 mmole, 5.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-[1-(3-methoxyphenyl)-3-(1-piperazinyl)-1-propenyl]cyclohexanol | 6 mmole, 2.0 g | COC=1C=C(C=CC1)C(=CCN1CCNCC1)C1(CCCCC1)O | C20H30N2O2
reactant | Triethylamine | 0.25 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-[1-(3-methoxyphenyl)-3-[4-[(3-methoxyphenyl)methyl]-1-piperazinyl]-1-propenyl]cyclohexanol | COC=1C=C(C=CC1)C(=CCN1CCN(CC1)CC1=CC(=CC=C1)OC)C1(CCCCC1)O | C28H38N2O3
